US06271015B1
A solution of suberic acid monomethyl ester (1.5 g, 7.97 mmol, 1.0 equiv.) in tetrahydrofuran (THF) (32.0 mL, .25M) at −20° C. was treated dropwise with BH3.THF (IM solution in THF, 7.97 mL, 7.97 mmol, 1.0 equiv.). The reaction mixture was stirred overnight and was subsequently allowed to reach room temperature. The reaction mixture was then diluted with ethyl acetate (100 mL) and quenched with methanol (10 mL) and 10% HCl (10 mL). Extraction with NaHCO3 (1×20 mL), water (2×10 mL), and brine (1×10 mL), afforded methyl-8-hydroxy-octanoate

reactant | suberic acid monomethyl ester | 7.97 mmol, 1.5 g, 1.0 equiv. | COC(CCCCCCC(=O)O)=O | C9H16O4
reactant | BH3.THF | 7.97 mmol, 7.97 mL, 1.0 equiv. | B.C1CCOC1
solvent | tetrahydrofuran | .25M, 32.0 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | methyl-8-hydroxy-octanoate | COC(CCCCCCCO)=O | C9H18O3
